US06608070B1
4-Ethyl-3-fluoro-2-pyridinecarbonitrile:
The title compound was prepared from 4-ethyl-3-fluoropyridine-N-oxide according to the procedure for preparing 4-chloro-2-pyridinecarbonitrile described in Example 33.

reactant | 4-ethyl-3-fluoropyridine-N-oxide | C(C)C1=C(C=[N+](C=C1)[O-])F | C7H8FNO
reactant | 4-chloro-2-pyridinecarbonitrile | ClC1=CC(=NC=C1)C#N | C6H3ClN2
product | 4-Ethyl-3-fluoro-2-pyridinecarbonitrile | C(C)C1=C(C(=NC=C1)C#N)F | C8H7FN2
